US08703758B2
H) 2-({trans-4-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]cyclohexyl}oxy)-1-methylethyl methanesulfonate
To a solution of 1-({trans-4-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]cyclohexyl}oxy)propan-2-ol (271 mg) and triethylamine (0.22 mL) in THF (5 mL) was added methanesulfonyl chloride (0.1 mL) under ice-cooling. The reaction mixture was stirred at room temperature for 1 hr, and extracted with ethyl acetate and water. The obtained organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (283 mg).

reactant | 1-({trans-4-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]cyclohexyl}oxy)propan-2-ol | 271 mg | C1(CC1)COC1=CC2=C(N=C(O2)[C@@H]2CC[C@H](CC2)OCC(C)O)C=C1 | C20H27NO4
reactant | triethylamine | 0.22 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.1 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-({trans-4-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]cyclohexyl}oxy)-1-methylethyl methanesulfonate | 283 mg | CS(=O)(=O)OC(CO[C@@H]1CC[C@H](CC1)C=1OC2=C(N1)C=CC(=C2)OCC2CC2)C | C21H29NO6S
